US07354933B2
Preparation of 4-bromo-7-methoxyquinoline
22.74 g of 4-hydroxy-7-methoxyquinoline are added to 200 g of phosphorus oxybromide preheated to a temperature in the region of 110° C. The reaction medium is heated at this same temperature for 3 hours. The reaction medium is poured, while hot, into a mixture of 500 ml of EtOAc and 500 ml of ice-cold water. The medium is neutralized with potassium carbonate to pH 7. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, evaporated under reduced pressure and then purified by column chromatography (SiO2, EtOAc/cyclohexane 50/50 by volume as eluents, Ar), and 14.6 g of the expected product are obtained.

reactant | 4-hydroxy-7-methoxyquinoline | 22.74 g | OC1=CC=NC2=CC(=CC=C12)OC | C10H9NO2
reactant | phosphorus oxybromide | 200 g | P(=O)(Br)(Br)Br | Br3OP
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 4-bromo-7-methoxyquinoline | BrC1=CC=NC2=CC(=CC=C12)OC | C10H8BrNO
